US08106064B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-acetonitrile (110):
To a stirred mixture of 4-chloro-5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine (5.65 g, 13.17 mmol) and [3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-acetonitrile (3.27 g, 12.54 mmol) in anhydrous DMF (25 ml) in a water bath under a nitrogen atmosphere, was added 60% sodium hydride (1.0 g, 25.09 mmol). After 30 min., water bath was removed and the mixture was stirred for overnight at room temperature. The reaction mixture was neutralized with aqueous saturated ammonium chloride solution. The mixture was then partitioned between ether and water. The ether layer was taken, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product as a yellow oil. The crude product was purified by silica gel column chromatography (eluent, EA:hexanes (1:15)) to afford 5.34 g (65%) of a pale yellow syrup. 1H NMR (200 MHz, CDCl3) δ 0.06 (6H, s), 0.90 (9H, s), 1.06 (6H, d, J=7.0 Hz), 3.01 (1H, m), 3.81 (6H, s), 4.71 (2H, s), 5.32 (2H, s), 5.35 (2H, s), 5.41 (3H, s), 6.86-6.91 (4H, m), 7.20-7.35 (6H, m), 7.41-7.49 (2H, m).

reactant | 4-chloro-5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine | 13.17 mmol, 5.65 g | ClC1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C23H25ClN2O4
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-acetonitrile | 12.54 mmol, 3.27 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)CC#N)(C)C | C15H23NOSi
reactant | sodium hydride | 25.09 mmol, 1.0 g | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-acetonitrile | 5.34 g, 65% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C(C#N)C1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)(C)C | C38H47N3O5Si
